2151-03-13 07:06:00 Physician Resident Progress Note
Chief Complaint: headache improving
   24 Hour Events:
   - nitroprusside gtt discontinued after initiation of labetolol 200 mg
   [**Hospital1 **]; SBP from 200s to 140s
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-3-13**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**53**] AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.6
C (96.1
   HR: 49 (49 - 66) bpm
   BP: 148/94(106) {133/79(93) - 191/116(133)} mmHg
   RR: 13 (13 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
                  Total In:
                                                                     26 mL
                  PO:
                  TF:
   IVF:
                                                                     26 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    350 mL
   Urine:
   350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     26 mL
                                                                   -350 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///28/
   Physical Examination
   GENERAL: muscular young man in NAD
   HEENT: EOMI, PERRL, OP moist without lesion
   CARDIAC: RR, normal S1/S2, no m/r/g
   LUNG: CTAB
   ABDOMEN: soft, NT, ND, BS present
   EXT: no c/c/e
   NEURO: awake, alert, oriented x 3
   Labs / Radiology
   92 mg/dL
   1.9 mg/dL
   28 mEq/L
   3.9 mEq/L
   17 mg/dL
   102 mEq/L
   139 mEq/L
        [image002.jpg]
                             [**2151-3-13**]  03:29 AM
   Cr
   1.9
   Glucose
   92
   Other labs: Ca++:9.1 mg/dL, Mg++:2.5 mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
   38-year-old African-American man with recently diagnosed hypertension
   presented with 5 days of headache, found to have SBP in 200-210,
   admitted to MICU on nitroprusside drip.
   .
   # HTN: on nitroprusside. PCP was concerned for pheochromocytoma; urine
   metanephrines were reportedly negative. No chest pain, visual changes,
   dyspnea. Opthalmologic exam was unremarkable.
   - continue nitroprusside gtt for now
   - start PO labetolol at higher dose than outpatient regimen: 200 mg
   [**Hospital1 **]; titrate up as needed
   - hold lisinopril given [**Last Name (un) **]
   - monitor h/a; pain control
   .
   # Acute kidney injury: Cr. 1.8, from 1.5 at PCP's office on Monday.
   Recent increase might be due to initiation of ACE inhibitor. Renal MRI
   was recommended by outpatient nephrologist. No drug use.
   - trend renal labs
   - hold lisinopril
   - renally dose all meds
   - urine lytes
   - further w/u per outpatient providers, but if Cr continues to trend
   up, will consult inpatient nephrology
   .
   # FEN: IVFs / replete lytes prn / regular diet
   # PPX: heparin SQ, bowel regimen
   # ACCESS: PIV
   # CODE: full
   # CONTACT:
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2151-3-12**] 08:09 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2151-03-13 07:58:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   38-year-old African-American man with recently diagnosed hypertension
   presented with 5 days of headache, found to have SBP in 200-210,
   admitted to MICU on nitroprusside drip.
   .
   Mr. [**Known lastname 13801**] initially presented to his PCP [**Last Name (NamePattern4) **] [**2151-3-8**] with a new, dull,
   constant headache, was found to have BP 200/120, Cr. 1.5, aldosterone
   61, renin 1.9. Serum metaneprhine fraction was normal; 24-hr urine
   metanephrine pending. He was started on lisinopril 20 mg qday. Three
   days later, BP was still high, and his lisinopril was increased to 40
   mg qday and labetolol 100 [**Hospital1 **] was added. Outpatient nephrologist
   suggested renal MRI for further work-up of his elevated creatinine. He
   went back to the PCP's office the day of admission when his BP was
   found to be unchanged; labetolol was added. With persistent headache,
   he presented to the ED. He denies any visual changes, chest pain,
   shortness of breath, weakness.
   .
   In ED, initial BP was 200-210/110-120, HR in the 50s. Exam, including
   optic disc exam, was unremarkable. Cr. was 1.8. He was started on
   nitroprusside at 0.25 mcg/kg/min and his SBP dropped quickly to 160.
   Nitroprusside was decreased to 0.15 mcg/kg/min. By transfer to MICU,
   his BP was 180/100, HR 70s. He received one Percocet for his headache.
   24 Hour Events:
   Headache improved overnight with BP control and Percocet.  Off
   nitroprusside since 10am
   Allergies:
   Other medications:
   Sc heparin
   Labetalol 200mg po BID
   tylenol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-3-13**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**53**] AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.6
C (96.1
   HR: 49 (49 - 66) bpm
   BP: 148/94(106) {133/79(93) - 191/116(133)} mmHg
   RR: 13 (13 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
                  Total In:
                                                                     26 mL
                  PO:
                  TF:
   IVF:
                                                                     26 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    350 mL
   Urine:
   350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     26 mL
                                                                   -350 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///28/
   Physical Examination
   Gen:Alert, NAD
   HEENT:PERRL, anicteric
   CV:RRR, no m/r/g
   PULM:CTA bilat
   ABD:soft, NTND, BS present
   EXTREM:no cyanosis or edema
   NEURO:alert and oriented, no focal deficits
   Labs / Radiology
   92 mg/dL
   1.9 mg/dL
   28 mEq/L
   3.9 mEq/L
   17 mg/dL
   102 mEq/L
   139 mEq/L
        [image002.jpg]
                             [**2151-3-13**]  03:29 AM
   Cr
   1.9
   Glucose
   92
   Other labs: Ca++:9.1 mg/dL, Mg++:2.5 mg/dL, PO4:4.9 mg/dL
   Urine Na 118, prot/creat ration 0.2
   Assessment and Plan
   38-year-old African-American man with recently diagnosed hypertension
   presented with 5 days of headache, found to have SBP in 200-210,
   admitted to MICU on nitroprusside drip.
   .
   # HTN: on nitroprusside. PCP was concerned for pheochromocytoma; urine
   metanephrines were reportedly negative. No chest pain, visual changes,
   dyspnea. Opthalmologic exam was unremarkable.
   - continue nitroprusside gtt for now
   - start PO labetolol at higher dose than outpatient regimen: 200 mg
   [**Hospital1 **]; titrate up as needed
   - hold lisinopril given [**Last Name (un) **]
   - monitor h/a; pain control
   .
   # Acute kidney injury: Cr. 1.8, from 1.5 at PCP's office on Monday.
   Recent increase might be due to initiation of ACE inhibitor. Renal MRI
   was recommended by outpatient nephrologist. No drug use.
   - trend renal labs
   - hold lisinopril
   - renally dose all meds
   - urine lytes
   - further w/u per outpatient providers, but if Cr continues to trend
   up, will consult inpatient nephrology
   .
   # FEN: IVFs / replete lytes prn / regular diet
   # PPX: heparin SQ, bowel regimen
   # ACCESS: PIV
   # CODE: full
   # CONTACT:
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2151-3-12**] 08:09 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2151-03-14 08:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2151-3-13**] 11:00 AM
   Renal
   - Hypertensive o/n to 180s-200s, weaned off of Nitroglycerin gtt to
   Amlodipine 5mg and Labetalol 200mg TID with an extra dose
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-3-13**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-3-14**] 08:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**53**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 74 (54 - 81) bpm
   BP: 155/97(112) {124/59(74) - 201/130(145)} mmHg
   RR: 15 (15 - 37) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,179 mL
                                                                     84 mL
   PO:
                                                                  1,080 mL
             TF:
   IVF:
                                                                     99 mL
                                                                     84 mL
   Blood products:
   Total out:
                                                                  2,440 mL
                                                                    600 mL
   Urine:
                                                                  2,440 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,261 mL
                                                                   -516 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///27/
   Physical Examination
   GENERAL: muscular young man in NAD
   HEENT: EOMI, PERRL, OP moist without lesion
   CARDIAC: RR, normal S1/S2, no m/r/g
   LUNG: CTAB
   ABDOMEN: soft, NT, ND, BS present
   EXT: no c/c/e
   NEURO: awake, alert, oriented x 3
   Labs / Radiology
   291 K/uL
   13.3 g/dL
   100 mg/dL
   1.9 mg/dL
   27 mEq/L
   4.1 mEq/L
   12 mg/dL
   103 mEq/L
   139 mEq/L
   40.8 %
   6.0 K/uL
        [image002.jpg]
                             [**2151-3-13**]  03:29 AM
                             [**2151-3-14**]  03:12 AM
   WBC
   6.0
   Hct
   40.8
   Plt
   291
   Cr
   1.9
   1.9
   Glucose
   92
   100
   Other labs: Alk Phos / T Bili:/0.2, LDH:168 IU/L, Ca++:9.4 mg/dL,
   Mg++:2.2 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
 HYPERTENSION, BENIGN
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   38-year-old African-American man with recently diagnosed hypertension
   presented with 5 days of headache, found to have SBP in 200-210,
   admitted to MICU on nitroprusside drip.
   .
   # HTN: Controlled on Labetalol, goal SBP 140-160 acutely. Off
   nitroprusside since 10pm.  Continued headache without vision changes,
   chest pain.
   - continue labetolol at higher dose than outpatient regimen: 200 mg
   [**Hospital1 **]; titrate up as needed
   - hold lisinopril given [**Last Name (un) **]
   - F/U U/S with dopplers
   - monitor h/a; pain control with Tylenol
   # Acute kidney injury: Cr. 1.8, from 1.5 at PCP's office on Monday.
   Recent increase might be due to initiation of ACE inhibitor. Renal MRI
   was recommended by outpatient nephrologist. No drug use.
   - Consult renal given age and rapid increase
   - trend renal labs
   - renally dose all meds
   - further w/u per outpatient providers, but if Cr continues to trend
   up, will consult inpatient nephrology
   - HIV test
   # FEN: IVFs / replete lytes prn / regular diet
   # PPX: heparin SQ, bowel regimen
   # ACCESS: PIV
   # CODE: full
   # CONTACT:  Pt
   # DISPO: Call out to medical floor

2151-03-14 08:08:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   38-year-old African-American man with recently diagnosed hypertension
   presented with 5 days of headache, found to have SBP in 200-210,
   admitted to MICU on nitroprusside drip.
   .
   Mr. [**Known lastname 13801**] initially presented to his PCP [**Last Name (NamePattern4) **] [**2151-3-8**] with a new, dull,
   constant headache, was found to have BP 200/120, Cr. 1.5, aldosterone
   61, renin 1.9. Serum metaneprhine fraction was normal; 24-hr urine
   metanephrine pending. He was started on lisinopril 20 mg qday. Three
   days later, BP was still high, and his lisinopril was increased to 40
   mg qday and labetolol 100 [**Hospital1 **] was added. Outpatient nephrologist
   suggested renal MRI for further work-up of his elevated creatinine. He
   went back to the PCP's office the day of admission when his BP was
   found to be unchanged; labetolol was added. With persistent headache,
   he presented to the ED. He denies any visual changes, chest pain,
   shortness of breath, weakness.
   .
   In ED, initial BP was 200-210/110-120, HR in the 50s. Exam, including
   optic disc exam, was unremarkable. Cr. was 1.8. He was started on
   nitroprusside at 0.25 mcg/kg/min and his SBP dropped quickly to 160.
   Nitroprusside was decreased to 0.15 mcg/kg/min. By transfer to MICU,
   his BP was 180/100, HR 70s. He received one Percocet for his headache.
   24 Hour Events:
 ULTRASOUND - At [**2151-3-13**] 11:00 AM-normal renal arteries and kidneys
   Reamined hypertensive so unable to be transferred to floor.  Was off
   nitroglycerin gtt but BP up again this AM so restarted
   HIV negative
   Allergies:
   Last dose of Antibiotics:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-3-13**] 10:00 PM
   Labetalol 200mg po TID
   Norvasc 5mg daily
   Nitro gtt
   HCTZ 12.5mg started this AM
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-3-14**] 08:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**53**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 74 (54 - 81) bpm
   BP: 155/97(112) {124/59(74) - 201/130(145)} mmHg
   RR: 15 (15 - 37) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,179 mL
                                                                     84 mL
   PO:
                                                                  1,080 mL
             TF:
   IVF:
                                                                     99 mL
                                                                     84 mL
   Blood products:
   Total out:
                                                                  2,440 mL
                                                                    600 mL
   Urine:
                                                                  2,440 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,261 mL
                                                                   -516 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///27/
   Physical Examination
   Gen: alert, NAD
   HEENT:PERRL, anicteric
   CV:RRR, no m/r/g
   PULM:CTA bilat
   ABD:soft, NTND
   EXTREM:no edema, pulses normal
   NEURO:alert, no focal deficits
   Labs / Radiology
   13.3 g/dL
   291 K/uL
   100 mg/dL
   1.9 mg/dL
   27 mEq/L
   4.1 mEq/L
   12 mg/dL
   103 mEq/L
   139 mEq/L
   40.8 %
   6.0 K/uL
        [image002.jpg]
                             [**2151-3-13**]  03:29 AM
                             [**2151-3-14**]  03:12 AM
   WBC
   6.0
   Hct
   40.8
   Plt
   291
   Cr
   1.9
   1.9
   Glucose
   92
   100
   Other labs: Alk Phos / T Bili:/0.2, LDH:168 IU/L, Ca++:9.4 mg/dL,
   Mg++:2.2 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   38-year-old African-American man with recently diagnosed hypertension
   presented with 5 days of headache, found to have SBP in 200-210,
   admitted to MICU on nitroprusside drip.
   .
   # HTN: on nitroprusside initially but quickly weaned off. PCP was
   concerned for pheochromocytoma; urine metanephrines were reportedly
   negative. No chest pain, visual changes, dyspnea. Opthalmologic exam
   was unremarkable.
   - continue PO labetolol at higher dose than outpatient regimen: 200 mg
   TID
   - hold lisinopril given [**Last Name (un) **]
   -norvasc added yesterday
   -started HCTZ today to try to get off IV nitro.  Will increase to 25mg
   if needed
   -consider hydral or clonidine if HCTZ ineffective
   -renal US normal
   - monitor h/a; pain control
   -follow up renal recs
   # Acute kidney injury: Cr. 1.9, from 1.5 at PCP's office on Monday.
   Recent increase might be due to initiation of ACE inhibitor. Renal MRI
   was recommended by outpatient nephrologist. No drug use. ? FSGS vc RAS
   vs essential HTN.  No significant proteinuria. Creat now stable
   overnight
   - trend renal labs
   - hold lisinopril
   - renally dose all meds
   -follow up renal recs
   -HIV negative
   -follow up blood smear to eval RBC morphology
   # FEN: IVFs / replete lytes prn / low Na diet
   # PPX: heparin SQ, bowel regimen
   # ACCESS: PIV
   # CODE: full
   # CONTACT:
   # DISPO: call out to floor once BP better controlled
   Total time spent: 30 min

2151-03-15 07:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - briefly off nitro gtt but SBP ~200, restarted, also uptitrating
   labetalol, amlodipine, added HCTZ, gave one-time hydral
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-3-14**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-3-15**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**53**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 66 (62 - 93) bpm
   BP: 150/98(111) {102/64(72) - 195/129(144)} mmHg
   RR: 17 (12 - 49) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,085 mL
                                                                    240 mL
   PO:
                                                                  1,000 mL
                                                                    240 mL
   TF:
   IVF:
                                                                     85 mL
   Blood products:
   Total out:
                                                                  2,775 mL
                                                                    300 mL
   Urine:
                                                                  2,775 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,690 mL
                                                                    -60 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///28/
   Physical Examination
   GENERAL: muscular young man in NAD
   HEENT: EOMI, PERRL, OP moist without lesion
   CARDIAC: RR, normal S1/S2, no m/r/g
   LUNG: CTAB
   ABDOMEN: soft, NT, ND, BS present
   EXT: no c/c/e
   NEURO: awake, alert, oriented x 3
   Labs / Radiology
   305 K/uL
   14.0 g/dL
   103 mg/dL
   2.0 mg/dL
   28 mEq/L
   4.2 mEq/L
   11 mg/dL
   100 mEq/L
   137 mEq/L
   42.1 %
   7.1 K/uL
        [image002.jpg]
                             [**2151-3-13**]  03:29 AM
                             [**2151-3-14**]  03:12 AM
                             [**2151-3-15**]  05:18 AM
   WBC
   6.0
   7.1
   Hct
   40.8
   42.1
   Plt
   291
   305
   Cr
   1.9
   1.9
   2.0
   Glucose
   92
   100
   103
   Other labs: Alk Phos / T Bili:/0.2, LDH:168 IU/L, Ca++:9.8 mg/dL,
   Mg++:2.4 mg/dL, PO4:4.6 mg/dL
   IMAGING:
   [**2151-3-13**] CT HEAD W/O CONTRAST:
   IMPRESSION: No acute intracranial process.
   [**2151-3-13**] RENAL ULTRASOUND:
   1. No hydronephrosis, nephrolithiasis, or renal mass lesion. Renal
   parenchyma
   is normal in appearance.
   2. Doppler interrogation of the kidneys demonstrates normal velocities
   in the
   main renal arteries. Resistive indices are within normal limits in the
   interlobar arteries, though there are characteristic tarud/parvus
   waveforms,
   suggesting possible renal artery stenosis or fibromuscular dyhsplasia.
   Further evaluation with MRI should be considered.
   MICRO:
   [**3-12**] MRSA screen: no MRSA isolated
   Assessment and Plan
 HYPERTENSION, BENIGN
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   38-year-old African-American man with recently diagnosed hypertension
   presented with 5 days of headache, found to have SBP in 200-210,
   admitted to MICU on nitroprusside drip.
   # HTN: Now back up to 200 systolic on labetalol, amlodipine.  Heachahe
   seems to respond to blood pressure control.  Cause is likely essential
   HTN.  Renal US negative for RAS.
   - restart nitro gtt
   - start HCTZ
   - continue labetolol, amlodipine, uptitrate PRN.
   - hold lisinopril given [**Last Name (un) **]
   - F/U U/S with dopplers
   - monitor h/a; pain control with Tylenol
   # Acute kidney injury: Cr. 1.9 and stable today.  Recent increase might
   be due to initiation of ACE inhibitor. Renal US negative for RAS. No
   drug use. HIV negative.  [**Month (only) 51**] need renal US.
   - f/u renal consult
   - trend renal labs
   - renally dose all meds
   -   likely will need bx - plan per renal
   # FEN: IVFs / replete lytes prn / regular diet
   # PPX: heparin SQ, bowel regimen
   # ACCESS: PIV
   # CODE: full
   # CONTACT:  Pt
   # DISPO: Call out to medical floor when SBP <180 for several hours
   after nitro gtt
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2151-3-12**] 08:09 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2151-03-15 11:52:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   38 yo man with HTNsive urgency, also found to have renal
   insufficiency.  Had headaches, but no chest pain, no SOB.  negative
   head CT and fundal exam.  Was initially on nipride and then nitro
   drip.  Has responded to norvasc, labetolol, and HCTZ.
   24 Hour Events:
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-3-14**] 10:00 PM
   Other medications:
   HCTZ
   labetolol
   amlodipine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain, No(t) Palpitations
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Neurologic: Headache, mild
   Psychiatric / Sleep: No(t) Suicidal
   Flowsheet Data as of  [**2151-3-15**] 11:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**53**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36.6
C (97.8
   HR: 75 (62 - 93) bpm
   BP: 154/96(109) {102/64(72) - 195/121(133)} mmHg
   RR: 25 (12 - 49) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,085 mL
                                                                    480 mL
   PO:
                                                                  1,000 mL
                                                                    480 mL
   TF:
   IVF:
                                                                     85 mL
   Blood products:
   Total out:
                                                                  2,775 mL
                                                                    800 mL
   Urine:
                                                                  2,775 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,690 mL
                                                                   -320 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone:
   Normal
   Labs / Radiology
   14.0 g/dL
   305 K/uL
   103 mg/dL
   2.0 mg/dL
   28 mEq/L
   4.2 mEq/L
   11 mg/dL
   100 mEq/L
   137 mEq/L
   42.1 %
   7.1 K/uL
        [image002.jpg]
                             [**2151-3-13**]  03:29 AM
                             [**2151-3-14**]  03:12 AM
                             [**2151-3-15**]  05:18 AM
   WBC
   6.0
   7.1
   Hct
   40.8
   42.1
   Plt
   291
   305
   Cr
   1.9
   1.9
   2.0
   Glucose
   92
   100
   103
   Other labs: Alk Phos / T Bili:/0.2, LDH:168 IU/L, Ca++:9.8 mg/dL,
   Mg++:2.4 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   HTNsive urgency:  On norvasc, labetolol, and HCTZ with improved
   control.
   Acute renal failure:  workup for renal artery stenosis.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2151-3-12**] 08:09 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes